.subckt 3528_150352M173300 1 2 3 4 5 6
D1 4 3 Red
.MODEL Red D
+ (IS=6.9370E-12
+ N=3.6313
+ RS=8.5534
+ IKF=65.810
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5)
D2 6 5 Green
.MODEL  Green D
+ (IS=11.174E-12
+ N=4.6460
+ RS=20.180
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5)
D3 2 1 Blue
.MODEL Blue D
+ (IS=10.000E-21
+ N=2.4501
+ RS=10.663
+ IKF=10.944E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5)
.ends
************************
.subckt 3528_150141M173100 1 2 3 4 
D1 1 2 Blue
.MODEL Blue D
+ (IS=115.53E-15
+ N=3.6365
+ RS=14.033
+ IKF=55.353E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5)
D2 1 3 Red
.MODEL Red D
+ (IS=24.321E-12
+ N=3.7548
+ RS=8.4129
+ IKF=851.21
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5)
D3 1 4 Green
.MODEL Green D
+ (IS=67.450E-9
+ N=3.8563
+ RS=26.998
+ IKF=363.64E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5)
.ends
*************************
.subckt 3528_150141M173100 1 2 3 4 5 6 
D1 6 5 Green
.MODEL Green D
+ (IS=67.450E-9
+ N=3.8563
+ RS=26.998
+ IKF=363.64E-12
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5)
D2 2 1 Blue
.MODEL Blue D
+ (IS=7.3924E-12
+ N=5
+ RS=80.614
+ IKF=130.59
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5)
D3 4 3 Red
.MODEL Red D
+ (IS=24.321E-12
+ N=3.7548
+ RS=8.4129
+ IKF=851.21
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5)
.ends
*************************



















