**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Signal LEDs
* Matchcode:              WL-SMCC
* Library Type:           LTspice
* Version:                rev21a
* Created/modified by:    Ella      
* Date and Time:          2021/09/06
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
.subckt 0402_150040AS73220 1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=267.10E-21
+ N=1.9663
+ RS=1.5631
+ IKF=8.6866
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
************************
.subckt 0402_150040AS73240 1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=177.48E-12
+ N=4.1591
+ RS=.55187
+ IKF=727.11
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
************************
.subckt 0402_150040BS73220 1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=3.4426E-12
+ N=4.9986
+ RS=11.154
+ IKF=3.9736E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*************************
.subckt 0402_150040BS73240 1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=44.501E-15
+ N=4.0745
+ RS=4.6529
+ IKF=5.8359E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*************************
.subckt 0402_150040GS73220  1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=6.0804E-9
+ N=5
+ RS=6.8959
+ IKF=2.5260E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
**************************
.subckt 0402_150040GS73240 1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=25.446E-12
+ N=5
+ RS=8.7061
+ IKF=2.7317E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
**************************
.subckt 0402_150040RS73220 1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=10.000E-21
+ N=1.7202
+ RS=1.7879
+ IKF=9.1928E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
**************************
.subckt 0402_150040RS73240 1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=1.6972E-12
+ N=3.2944
+ RS=2.1152
+ IKF=492.85
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
****************************
.subckt 0402_150040SS73220 1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=1.0025E-15
+ N=2.2259
+ RS=.3926
+ IKF=240.91E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
****************************
.subckt 0402_150040SS73240 1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=1.0025E-15
+ N=2.2259
+ RS=.3926
+ IKF=240.91E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
****************************
.subckt 0402_150040VS73220 1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=10.000E-21
+ N=1.8430
+ RS=1.7026
+ IKF=9.7981
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******************************
.subckt 0402_150040VS73240 1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=10.000E-21
+ N=1.8547
+ RS=1.4943
+ IKF=13.389E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*****************************
.subckt 0402_150040YS73220 1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=15.076E-21
+ N=1.8354
+ RS=1.3161
+ IKF=6.1840E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*****************************
.subckt 0402_150040YS73240 1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=2.2176E-18
+ N=2.1216
+ RS=1.9039
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*******************************
.subckt 0603_150060BS73220 1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=116.94E-15
+ N=3.3066
+ RS=6.4577
+ IKF=1.1336E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******************************
.subckt 0603_150060GS73220 1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=32.786E-12
+ N=5
+ RS=7.4468
+ IKF=452.94E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******************************
.subckt 0603_150060RS73220 1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=10.000E-21
+ N=1.7433
+ RS=1.0000E-6
+ IKF=14.815E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*******************************
.subckt 0603_150060VS73220 1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=12.978E-18
+ N=2.2944
+ RS=2.6250
+ IKF=128.91
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*********************************
.subckt 0603_150060YS73220 1 2
D1 1 2 smcc
.MODEL smcc D
+ IS=6.1279E-18
+ N=2.1259
+ RS=.60978
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
**********************************