**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:     Visible Chip LED
* Matchcode:          WL-SMCW SMT Mono-Color Chip LED Waterclear
* Library Type:       Pspice
* Version:        rev18a       
* Date and Time   :       2018-8-4
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt  0603_150060BS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=1.4100E-12
+ N=4.9353
+ RS=2.2082
+ IKF=5.3263E-3
+ CJO=0.000000000040921
+ M=0.1
+ VJ=10
.ends
******
.subckt  0603_150060GS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=910.58E-15
+ N=5
+ RS=7.7521
+ CJO=7.8459E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  0603_150060RS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=981.11E-18
+ N=2.4704
+ RS=2.6193
+ CJO=4.4898E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  0603_150060SS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=390.63E-21
+ N=1.9273
+ RS=62.880E-3
+ IKF=4.7156E-3
+ CJO=999.00E-6
+ M=.1001
+ VJ=9.9900
.ends
******

.subckt  0603_150060VS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=1.857
+ RS=0.82002
+ IKF=21.692
+ CJO=0.000000000077953
+ M=0.1
+ VJ=10
.ends
******
.subckt  0603_150060YS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=1E-20
+ N=1.8212
+ RS=1.348
+ IKF=10.264
+ CJO=0.000000000059304
+ M=0.1
+ VJ=10
.ends
******
.subckt  0805_150080BS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=0.0000000000013943
+ N=5
+ RS=2.5991
+ IKF=0.0042054
+ CJO=0.000000000033053
+ M=0.1
+ VJ=10
.ends
******
.subckt  0805_150080GS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=0.0000000002303
+ N=4.2607
+ RS=7.4419
+ IKF=0.00000048479
+ CJO=0.000000000031996
+ M=0.1
+ VJ=10
.ends
******

.subckt  0805_150080RS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=880.57E-18
+ N=2.4886
+ RS=1.5525
+ IKF=7.3817E-3
+ CJO=4.5299E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  0805_150080SS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=586.58E-15
+ N=3.1933
+ RS=1.6543
+ IKF=631.57
+ CJO=5.6130E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  0805_150080VS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=1.8458
+ RS=1.0082
+ IKF=6.4818
+ CJO=6.6259E-9
+ M=3.1232
+ VJ=9.9900
.ends
******
.subckt  0805_150080YS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=1.8124
+ RS=1.3037
+ IKF=5.1693
+ CJO=4.0123E-9
+ M=.1001
+ VJ=9.9900
.ends
******

.subckt  1206_150120AS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=2.0577E-18
+ N=2.0906
+ RS=3.7169
+ CJO=5.1781E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1206_150120BS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=2.1308E-12
+ N=4.9950
+ RS=11.203
+ IKF=999
+ CJO=5.1088E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1206_150120RS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=2.1439E-9
+ N=4.9950
+ RS=2.8132
+ IKF=999
+ CJO=6.4456E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1206_150120SS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=2.4498E-9
+ N=4.9950
+ RS=2.5567
+ IKF=999
+ CJO=999.00E-6
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1206_150120VS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=2.9598E-9
+ N=4.9950
+ RS=.95633
+ IKF=999
+ CJO=4.5070E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1206_150120YS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=3.4589E-9
+ N=4.9950
+ RS=.79614
+ IKF=999
+ CJO=4.6794E-9
+ M=.1001
+ VJ=9.9900
.ends
******
.subckt  1206_150120GS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=4.9535E-20
+ N=2.6672
+ RS=21.613
+ IKF=0
+ CJO=0.000000000063579
+ M=0.1001
+ VJ=9.99
.ends
******
.subckt  0603_150060BS84000  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060GS84000  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060RS86000  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060VS86000  1  2
D1 1 2 led
.MODEL led D
+ IS=330.17E-21
+ N=2.6943
+ RS=2.3544
+ IKF=278.04
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ ISR=100.00E-12
+ BV=100
+ IBV=100.00E-6
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060YS86000  1  2
D1 1 2 led
.MODEL led D
+ IS=330.17E-21
+ N=2.6943
+ RS=2.3544
+ IKF=278.04
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060AS75000A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060BS75000A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060GS75000A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060RS75000A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060SS75000A  1  2
D1 1 2 led
.MODEL led D
+ IS=330.16E-21
+ N=2.6943
+ RS=2.3536
+ IKF=37.337
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060VS75000A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060YS75000A  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060YS75003  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060AS75020  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060BS75020  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060GS75020  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060RS75020  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060SS75020  1  2
D1 1 2 led
.MODEL led D
+ IS=318.22E-21
+ N=2.6916
+ RS=2.3547
+ IKF=161.04
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060VS75020  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
*****
.subckt  0603_150060YS75020  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.4466
+ RS=1.9921
+ IKF=31.051E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060YS75098  1  2
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=1.7895
+ RS=1.0000E-6
+ IKF=1.0000E3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060AS75000  1  2
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=1.8643
+ RS=1.0000E-6
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=100
+ TT=5.0000E-9
.ends
******
.subckt  0603_150060YS75099  1  2
D1 1 2 led
.MODEL led D
+ IS=10.010E-21
+ N=1.8513
+ RS=1.0000E-6
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=100
+ TT=5.0000E-9
.ends
******
.subckt 0805_150080AS75000  1  2
D1 2 1 led
.MODEL led D
+ IS=10.010E-21
+ N=1.8643
+ RS=1.0000E-6
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******







































































































































































































































